US07456187B2
1-(4-Fluorophenyl)-2-hydroxyethanone
Under a nitrogen atmosphere, a stirred solution of 4′-fluoroacetophenone (1.15 g, 8.32 mmol) in acetonitrile (42 ml) was treated with [bis(trifluoroacetoxy)iodo]benzene (7.16 g, 16.6 mmol) followed by water (8.3 ml) and trifluoroacetic acid (1.3 ml). The resultant solution was heated under reflux for 2 hr before standing overnight at ambient temperature. The solvent was then removed in vacuo; water (30 ml) was added and the mixture extracted with dichloromethane (3×30 ml). The combined extracts were washed with saturated sodium hydrogen carbonate solution (30 ml) followed by brine (30 ml) and dried (MgSO4). The solvent was removed in vacuo to give the crude 1-(4-fluorophenyl)-2-hydroxyethanone which was purified by flash chromatography (silica) eluting with ethyl acetate and 40°-60° C. petroleum ether (3:1) to give a white solid (0.55 g).

reactant | 4′-fluoroacetophenone | 8.32 mmol, 1.15 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | [bis(trifluoroacetoxy)iodo]benzene | 16.6 mmol, 7.16 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | water | 8.3 ml | O | H2O
reactant | trifluoroacetic acid | 1.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 42 ml | C(C)#N | C2H3N
product | 1-(4-Fluorophenyl)-2-hydroxyethanone | 0.55 g | FC1=CC=C(C=C1)C(CO)=O | C8H7FO2
